data/specific_train_final.csv
"[H:15][CH:14]([C:5]([CH3:17])([C:6]([H:7])([CH2:12][OH:13])[O:8][O:9][N:10]=[O:11])[O:4][N+:2](=[O:1])[O-:3])[OH:16]>>[H:15][CH:14]([C:5]([CH3:17])([C:6]([H:7])([CH2:12][OH:13])[O:8])[O:4][N+:2](=[O:1])[O-:3])[OH:16].[N:10](=[O:11])[O:9] 8,9-8; 9,8-9",Room Temperature,Initiation,homolyze
"CCCC([CH2:10])O[N+](=O)[O-].[O:20][O]>>CCCC([CH2:10][O:20][O])O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:10][O:9][O:8][O:7].[CH3:1][CH:2]=[CH:3][C:4](=[O:6])[O:5]>>[H:10][O:9].[CH3:1][CH:2]=[CH:3][C:4](=[O:6])[O:5].[O:7][O:8] 8,9-9; 8,9-8",Room Temperature,Initiation,homolyze
"CC([CH2:10])(C(CO)O[N+](=O)[O-])O.[O:20][O]>>CC([CH2:10][O:20][O])(C(CO)O[N+](=O)[O-])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(CO[N+](=O)[O-])[O:20][O:21][O].[N+](=O)[O-]>>CC(CO[N+](=O)[O-])[O:20].[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(C([O:20][O:21]N=O)(Cl)Cl)Cl>>C(C([O:20])(Cl)Cl)Cl.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)(CCO)[O:20].[N+:10](=O)[O-]>>CC(C)(CCO)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCCC(C)[O:20][O:21][O]>>CCCCC(C)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
[CH3:9][CH2:8][CH:7]([CH2:6][CH:5]=[O:4])[O:10].[N:2](=[O:3])[O:1]>>[CH3:9][CH2:8][CH:7]([CH2:6][CH:5]=[O:4])[O:10].[N+:2](=[O:3])[O-:1] 2-1,Room Temperature,Propagation,ha resonance
"[CH:10](C(O)Cl)Cl.[O:20][O]>>C([CH:10]([O:20][O])Cl)(O)Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:10][C:9](=[CH:11][OH:12])[CH:6]([CH2:5][O:4][O:3][N:2]=[O:1])[O:7][OH:8]>>[CH3:10][C:9](=[CH:11][OH:12])[CH:6]([CH2:5][O:4])[O:7][OH:8].[N:2](=[O:1])[O:3] 3,4-3; 3,4-4",Room Temperature,Initiation,homolyze
"CC(OC(C)(C)C)O[O:20].[N:10]=O>>CC(OC(C)(C)C)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C)(OC(=O)C)O[O:20][O:21][N+:11](=O)[O:10]>>CCC(C)(OC(=O)C)O[O:20][O:10].[N+:11](=O)[O:21] 10,11-10,20;10,11-11;20,21-10,20;20,21-21",Room Temperature,Initiation,homolyze
"CCCC(C(C)[O:20][O:21][O])O>>CCCC(C(C)[O:20])O.[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CCCCC(=O)O[O:10]>>[H:20][O:10]OC(=O)CCCC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C1=CC=C(C=C1)C[O:20][O:21]N=O>>C1=CC=C(C=C1)C[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[O-:20][O+:21]=O.[He]>>[He].[O-:20].O=[O+:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"COC(=O)OC[O:20][O:21]N=O>>COC(=O)OC[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(C(CCl)Cl)O[O:20].[N:10]=O>>C(C(CCl)Cl)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C[C:23](C(CO)O[O:10])=[CH:22][O:21][H:20]>>[O:21]=[CH:22][C:23](C(CO)O[O:10][H:20])C 10-10,20;20,21-10,20;20,21-21,22;22,23-21,22;22,23-23",Room Temperature,Propagation,abstraction
"c1ccccc1[C](=O)OO[O:20][N+:10]([O-])=O>>c1ccccc1[C](=O)OO[O:20].[N+:10]([O-])=O 10,20-10;10,20-20",Room Temperature,Initiation,homolyze
"C[C:10]1C=CC=C(C1O)C.[O:20][O]>>CC1=CC=C[C:10](C1O)(C)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CC(C)C12C=CC(C(C1O)OO2)O[O:10]>>[H:20][O:10]OC1C=CC2(C(C1OO2)O)C(C)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][C:21](CO)([O:22])OCC.[OH:10]>>[H:20][OH:10].CCO[C:21](=[O:22])CO 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"CC12C=CC(C(C1O)OO2)(C)[O:20][O:21]N=O>>CC12C=CC(C(C1O)OO2)(C)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C(C)O[O:20])OC(=O)C.[N:10]=O>>CC(C(C)O[O:20][N:10]=O)OC(=O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:10][C:9](=[O:11])[CH:7]1[CH:6]([O:8]1)[CH:5]=[CH:4][C:2](=[O:1])[CH3:3].[OH:12]>>[H:10][C:9](=[O:11])[CH:7]1[CH:6]([O:8]1)[CH:5]([CH:4][C:2](=[O:1])[CH3:3])[OH:12] 12-12,5; 4,5-12,5; 4,5-4",Room Temperature,Propagation,addition
"CCC(C)(C[O:21][O:20][O])O.[N+](=O)[O-]>>CCC(C)(C[O:21])O.[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CC(CO[N+](=O)[O-])O[O:10]>>[H:20][O:10]OC(C)CO[N+](=O)[O-].[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH2]O[O:10].[O:21]=[S:20]=O>>[CH2]O[O:10][S:20](=O)[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][O:21][O].C/C/1=C/CCC(C2CC(C2CC1)(C)C)(CO)O[O:10]>>[H:20][O:10]OC1(CC/C=C(\CCC2C1CC2(C)C)/C)CO.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)(CO[N+](=O)[O-])O[O:20].[N:10]=O>>CC(C)(CO[N+](=O)[O-])O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCCCCCCC(CC)[O:20][O:21][O]>>CCCCCCCCC(CC)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
